US07855219B2
N-{4-[2-Amino-6-(3-pyridylmethyloxy)-3,5-dicyano-4-pyridinyl]phenyl}-acetamide
115 mg (0.3 mmol) of N-{4-[2-amino-3,5-dicyano-6-(phenylsulfanyl)-4-pyridinyl]phenyl}acetamide [prepared analogously to Kambe et al., Synthesis, 531-533 (1981)] are, together with 50 mg (0.45 mmol) of potassium tert-butoxide, dissolved/suspended in 1.12 g (=1 ml, 10.3 mmol) of 3-pyridylmethyl alcohol, and the mixture is stirred at 60° C. for 2 h. The precipitate is filtered off with suction and suspended in a mixture of water and ethanol, and 0.3 ml of 5N acetic acid is added. After filtration, the product is purified by preparative HPLC on reversed-phase silica gel (gradient: water/acetonitrile 95:510:90 in 38 minutes).

reactant | N-{4-[2-amino-3,5-dicyano-6-(phenylsulfanyl)-4-pyridinyl]phenyl}acetamide | 0.3 mmol, 115 mg | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)NC(C)=O)C#N)SC1=CC=CC=C1 | C21H15N5OS
reactant | potassium tert-butoxide | 0.45 mmol, 50 mg | CC(C)([O-])C.[K+]
reactant | 3-pyridylmethyl alcohol | 10.3 mmol, 1 ml, 1.12 g | N1=CC(=CC=C1)CO | C6H7NO
product | N-{4-[2-Amino-6-(3-pyridylmethyloxy)-3,5-dicyano-4-pyridinyl]phenyl}-acetamide | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)NC(C)=O)C#N)OCC=1C=NC=CC1 | C21H16N6O2
